US09062092B2
Compound 57b. 6-Nitromethylene-[1,4]dioxepane
A stirred mixture of 6-nitromethyl-[1,4]dioxepan-6-ol (0.74 g, 4.18 mmol) and triethylamine (1.86 g, 2.56 mL, 18.4 mmol) in dichloromethane (20 mL), under nitrogen, was cooled to −78° C. and methanesulfonyl chloride (1.43 g, 970 μL, 12.5 mmol) was added dropwise. The reaction mixture was stirred for 30 minutes and then quenched with saturated ammonium chloride solution. The mixture was removed from the cooling bath and allowed to warm to ambient temperature. The organic layer was separated and the aqueous layer was extracted with dichloromethane. The combined organic extracts were dried over anhydrous sodium sulfate, filtered and evaporated. The residue was purified by silica gel chromatography using a gradient of pentane/diethyl ether 3:1 to 1:1 to give the title compound (512 mg, 77%) as a yellow oil. 1H NMR (300 MHz, CDCl3) δ 3.81-3.90 (m, 4H), 4.36 (d, J=0.5 Hz, 2H), 5.04 (d, J=2.5 Hz, 2H), 7.02 (t, J=2.5 Hz, 1H). LCMS (m/z) 182.1.0 [M+Na], Tr=1.04 min.

reactant | 6-nitromethyl-[1,4]dioxepan-6-ol | 4.18 mmol, 0.74 g | [N+](=O)([O-])CC1(COCCOC1)O | C6H11NO5
reactant | triethylamine | 18.4 mmol, 2.56 mL, 1.86 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 12.5 mmol, 970 μL, 1.43 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 6-Nitromethylene-[1,4]dioxepane | 512 mg, 77% | [N+](=O)([O-])C=C1COCCOC1 | C6H9NO4
